US04472305
Condensation of BocPro-Phe-PheNHNH2 (Example 1, 1.93 g.) and HGly-Leu-DMetNH2 (1.31 g.) by the acyl azide method (Yajima et al., Chem. Pharm. Bull., vol. 19, p. 1900, 1971) gave BocPro-Phe-Phe-Gly-Leu-DMetNH2 in 60% yield. De-t-butoxycarbonylation of BocPro-Phe-Phe-Gly-Leu-DMetNH2 (1.6 g.) using hydrogen chloride in acetic acid gave HPro-Phe-Phe-Gly-Leu-DMetNH2, which was isolated as the amorphous white solid phosphate (1:1) slat sesquihydrate in 72% yield.

reactant | BocPro-Phe-Phe-Gly-Leu-DMetNH2 | 1.6 g | N1([C@H](C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)NCC(=O)N[C@@H](CC(C)C)C(=O)N[C@H](CCSC)C(=O)N)CCC1)C(=O)OC(C)(C)C | C41H59N7O8S
reactant | hydrogen chloride | Cl | ClH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | HPro-Phe-Phe-Gly-Leu-DMetNH2 | N1[C@H](C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)NCC(=O)N[C@@H](CC(C)C)C(=O)N[C@H](CCSC)C(=O)N)CCCC1 | C37H53N7O6S
